US06376505B1
F. Preparation of (4,5-ethylenedioxy)spiro(isobenzofuran-1(3H),4′-piperidin)-3-one
Into a 25 ml round bottom flask fitted with a nitrogen inlet, condenser, and a magnetic stirring bar were placed 1′-methyl-(4,5-ethylenedioxy)spiro(isobenzofuran-1(3H),4′-piperidin)-3-one (501 mg, 1.82 mmol) and 5.5 ml of 1,2-dichloroethane. The mixture was cooled to 0° before 1-chloroethyl chloroformate (0.8 ml, 7.28 mmol) was added slowly via a syringe. The mixture was then heated to reflux for 72 hours. The mixture was concentrated in vacuo and the residue taken up in 5.5 ml of methanol. This mixture was heated to reflux for 3 hours before concentration. This residue was diluted with water and made basic with concentrated ammonium hydroxide. The aqueous mixture was extracted with ethyl acetate. The organics were washed with brine, dried over sodium sulfate, filtered, and concentrated. The residue was taken up in 2% methanol:ammonium hydroxide and chromatographed (100:10:1 methylene chloride:methanol:ammonium hydroxide) to give 203 mg of title product (43%).

reactant | 1′-methyl-(4,5-ethylenedioxy)spiro(isobenzofuran-1(3H),4′-piperidin)-3-one | 1.82 mmol, 501 mg | CN1CCC2(CC1)OC(C1=C3C(=CC=C12)OCCO3)=O | C15H17NO4
reactant | 1-chloroethyl chloroformate | 7.28 mmol, 0.8 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 5.5 ml | ClCCCl | C2H4Cl2
product | (4,5-ethylenedioxy)spiro(isobenzofuran-1(3H),4′-piperidin)-3-one | 203 mg, 43% | C1OC2=C3C(OC4(CCNCC4)C3=CC=C2OC1)=O | C14H15NO4
